US08563542B2
4-Amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide
To 4-amino-3-methoxybenzoic acid (1.064 g mg, 6.37 mmol) in dichloromethane (50 ml) was added DIPEA (2.22 ul, 12.74 mmol) and TBTU (2.25 g, 7.0 mmol) and the mixture stirred for 10 minutes. 4-amino-1-methylpiperidine (0.872 g, 7.65 mmol) was added and stirring continued for 16 hours. The resulting solid was filtered and dried under vacuum (1.04 g, 3.95 mmol, 62%).

reactant | 4-amino-3-methoxybenzoic acid | 6.37 mmol, 1.064 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
reactant | DIPEA | 12.74 mmol, 2.22 ul | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 7.0 mmol, 2.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-amino-1-methylpiperidine | 7.65 mmol, 0.872 g | NC1CCN(CC1)C | C6H14N2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-Amino-3-methoxy-N-(1-methyl-piperidin-4-yl)-benzamide | NC1=C(C=C(C(=O)NC2CCN(CC2)C)C=C1)OC | C14H21N3O2
